US07960369B2
5,6-dihydro-4H-cyclopenta[b]thien-4-one
To a solution of N,N-dimethylacrylamide (6.6 g, 71 mmol) in dichloroethane (400 ml) was gradually added dropwise a solution of trifluoromethanesulfonic acid anhydride (20 g, 71 mmol) in dichloroethane (50 mL) under ice-cooling. A solution of thiophene (6.0 g, 71 mmol) in dichloroethane (50 mL) was added to the mixture, and the mixture was heated under reflux for 15 hrs. The reaction mixture was concentrated under reduced pressure, saturated sodium hydrogencarbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with water and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9:5 to 4:1) to give the title compound (3.8 g, yield 39%) as a white powder.

reactant | N,N-dimethylacrylamide | 71 mmol, 6.6 g | CN(C(C=C)=O)C | C5H9NO
reactant | trifluoromethanesulfonic acid anhydride | 71 mmol, 20 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | thiophene | 71 mmol, 6.0 g | S1C=CC=C1 | C4H4S
solvent | dichloroethane | 400 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
product | 5,6-dihydro-4H-cyclopenta[b]thien-4-one | 3.8 g, yield 39% | S1C2=C(C=C1)C(CC2)=O | C7H6OS
